US07981903B2
To MeOH (200 mL) was added 3-(3-methyl-4-nitrophenyl)-1-propylpyridinium iodide (9.4 g, 22.7 mmol). The solution was stirred at −10° C. for 10 min followed by the slow portionwise addition of solid NaBH4 (2.8 g, 68.1 mmol, Aldrich) over 5 min. The reaction was kept stirring at −10° C. for 1 h. The mixture was concentrated and diluted with Ethyl acetate (200 mL) before the addition of sat. NaHCO3 aq (150 mL). The organic phase was washed with brine, concentrated, and dried (Na2SO4). Purification via chromatography on SiO2 (0-10% MeOH/DCM) afforded 5-(3-methyl-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine (5.0 g, 85% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.87 (t, J=7.3 Hz, 3 H), 1.48-1.57 (m, 2 H), 2.29 (td, J=5.7, 3.2 Hz, 2 H), 2.39-2.43 (m, 2 H), 2.51 (t, J=5.7 Hz, 2 H), 3.26 (d, J=1.8 Hz, 2 H), 3.94 (s, 3 H), 6.43 (ddd, J=3.8, 2.2, 2.0 Hz, 1 H), 7.10 (dd, J=8.5, 1.7 Hz, 1 H), 7.23 (d, J=1.8 Hz, 1 H), 7.83 (d, J=8.4 Hz, 1 H); ESIMS (M+H)+=261.

reactant | 3-(3-methyl-4-nitrophenyl)-1-propylpyridinium iodide | 22.7 mmol, 9.4 g | [I-].CC=1C=C(C=CC1[N+](=O)[O-])C=1C=[N+](C=CC1)CCC
reactant | NaBH4 | 68.1 mmol, 2.8 g | [BH4-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | 5-(3-methyl-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine | 5.0 g, 85% yield | CC=1C=C(C=CC1[N+](=O)[O-])C1=CCCN(C1)CCC | C15H20N2O2
